US06462229B1
Preparation of (+)-α-difluoromethylornithine.
From the evaporated mother liquor of the resolution from Example 1, according to the process described above, (+)-α-difluoromethylornithine monohydrochloride monohydrate was isolated with an optical rotation of [α]20D=+3.1° (c=7.0 in MeOH).

reactant | (+)-α-difluoromethylornithine monohydrochloride monohydrate | O.Cl.FC([C@](N)(CCCN)C(=O)O)F
solvent | MeOH | CO | CH4O
product | (+)-α-difluoromethylornithine | FC([C@](N)(CCCN)C(=O)O)F | C6H12F2N2O2
